US04410539
A mixture of diisopropylamine (4.44 g.) and potassium t-butoxide (5.02 g.) in dry ether was cooled to -78° C. under an atmosphere of dry nitrogen and n-butyl lithium (28.4 ml. of 1.55 M solution in hexane) was added with stirring over 5 minutes. The mixture was stirred at -78° for 30 minutes and then a solution of 5-bromo-3-methylbenzo[b]thiophene (9.10 g.) in dry ether (25 ml.) was added over 5 minutes. The resulting mixture was stirred at -78° C. for 30 minutes and then poured onto a mixture of crushed solid carbon dioxide and ether. When all the carbon dioxide had evaporated the mixture was shaken with water and the ether layer was separated. The aqueous layer was acidified with acetic acid and the solid was filtered off, washed with water and crystallized from acetic acid to give 5-bromo-3-methylbenzo[b]thiophene-2-carboxylic acid (7.30 g.), m.p. >300°.

reactant | diisopropylamine | 4.44 g | C(C)(C)NC(C)C | C6H15N
reactant | potassium t-butoxide | 5.02 g | CC(C)([O-])C.[K+]
reactant | n-butyl lithium | 1.55 M, 28.4 ml | C(CCC)[Li]
reactant | 5-bromo-3-methylbenzo[b]thiophene | 9.10 g | BrC1=CC2=C(SC=C2C)C=C1 | C9H7BrS
reactant | carbon dioxide | C(=O)=O | CO2
solvent | ether | CCOCC | C4H10O
solvent | ether | 25 ml | CCOCC | C4H10O
product | 5-bromo-3-methylbenzo[b]thiophene-2-carboxylic acid | 7.30 g | BrC1=CC2=C(SC(=C2C)C(=O)O)C=C1 | C10H7BrO2S
